US07579368B2
To a cooled solution of 4-amino-2-ethoxybenzoic acid (500 mg, 2.76 mmol) in 2 M hydrochloric acid (1.0 mL) was added a solution of sodium nitrite (192 mg, 2.8 mmol) in water (0.55 mL). The mixture was stirred for 15 min and neutralized by adding small amounts of solid sodium bicarbonate. This solution was then added to a freshly prepared solution of copper(I) cyanide at 0° C. (prepared from sodium cyanide and copper(I) chloride according to Org. Syn. Coll. Vol VI, p. 514) in water (7.5 mL) and benzene (2.5 mL). The reaction was allowed to warm up to room temperature and stirred for 2 h. The mixture was filtered through Celite and the filtrate extracted with ethyl acetate. The aqueous phase was acidified with 2 M hydrochloric acid and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over anhydrous sodium sulfate and concentrated to give 4-cyano-2-ethoxybenzoic acid as a light brown solid (280 mg, 53%), which was used in the next step without further purification.

reactant | 4-amino-2-ethoxybenzoic acid | 2.76 mmol, 500 mg | NC1=CC(=C(C(=O)O)C=C1)OCC | C9H11NO3
reactant | sodium nitrite | 2.8 mmol, 192 mg | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | copper(I) cyanide | [Cu]C#N
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | hydrochloric acid | 2 M, 1.0 mL | Cl | ClH
solvent | water | 0.55 mL | O | H2O
solvent | water | 7.5 mL | O | H2O
solvent | benzene | 2.5 mL | C1=CC=CC=C1 | C6H6
catalyst | copper(I) chloride | [Cu]Cl
product | 4-cyano-2-ethoxybenzoic acid | 280 mg, 53% | C(#N)C1=CC(=C(C(=O)O)C=C1)OCC | C10H9NO3
